US06617346B1
To a solution of 3-cyano-5-methoxymethyl-benzoic acid (90 mg, 0.469 mmol) in acetonitrile (3 mL) was added cesium carbonate (199 mg, 0.1 mmol) and ethyl iodide (44 μL, 0.563 mmol), respectively. The reaction mixture was stirred at reflux for 4 h. Upon cooling to room temperature, the reaction mixture was filtered and the filtrated was concentrated in vacuo. The residue was taken up in ethyl acetate and washed with water, brine and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo to afford ethyl 3-cyano-5-methoxymethyl-benzoate (88 mg, 70%).

reactant | 3-cyano-5-methoxymethyl-benzoic acid | 0.469 mmol, 90 mg | C(#N)C=1C=C(C(=O)O)C=C(C1)COC | C10H9NO3
reactant | cesium carbonate | 0.1 mmol, 199 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 0.563 mmol, 44 μL | C(C)I | C2H5I
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | ethyl 3-cyano-5-methoxymethyl-benzoate | 88 mg, 70% | C(#N)C=1C=C(C(=O)OCC)C=C(C1)COC | C12H13NO3
